US04103010
In a 2 liter three-necked flask are added 370 g of 3-amino-5-methyl-isoxazole hydrochloride, 231 g of 1-cyanoguanidine and 500 ml of butanol. The temperature is gradually raised to the refluxing temperature of the solvent, at which level it is then maintained during 10 minutes. The reaction mixture is allowed to cool and, after incipient crystallization, is poured over 2 liters of butanol. After complete crystallization, the resulting material is filtered, the solid is washed with 300 ml of isopropanol. The solid is recrystallized from 1 liter 90% ethanol, to give 250 g of (5-methyl-isoxazol-3-yl)biguanide hydrochloride. M.p. (Kofler) = 210°-212° C. M.p. (cap.) = 195°-196° C. with introduction at 185° C. and heating at a rate of 2° C./minute.

reactant | 3-amino-5-methyl-isoxazole hydrochloride | 370 g | Cl.NC1=NOC(=C1)C
reactant | 1-cyanoguanidine | 231 g | C(#N)NC(=N)N | C2H4N4
solvent | butanol | 500 ml | C(CCC)O | C4H10O
product | (5-methyl-isoxazol-3-yl)biguanide hydrochloride | 250 g | Cl.CC1=CC(=NO1)NC(=N)NC(=N)N | InChI=1S/C6H10N6O.ClH/c1-3-2-4(12-13-3)10-6(9)11-5(7)8;/h2H,1H3,(H6,7,8,9,10,11,12);1H
